US07989532B2
According to the molar ratio of L-Lactide/3-[4-(benzyloxycarbonylamino) butyl]-morpholine-2,5-dione monomer-=1: 9, 40.5 g L-Lactide and 10 g 3-[4-(benzyloxycarbonylamino) butyl]-morpholine-2,5-dione monomer are weighed and put into ampule. Then 5 ml stannous octoate chloroform solution of 30 mg/ml is injected. After volatilization of the chloroform under vacuum, the ampule is sealed with alcohol blast burner. Finally, the sealed ampule is put into oil-bath of 90-140° C. for 12-72 h to obtain poly (glycolic acid-Nε-benzyloxycarbonyl-L-lysine-L-lactic acid).

reactant | L-Lactide 3-[4-(benzyloxycarbonylamino) butyl]-morpholine-2,5-dione | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C(C1=CC=CC=C1)OC(=O)NCCCCC1NC(COC1=O)=O
reactant | L-Lactide | 40.5 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | 3-[4-(benzyloxycarbonylamino) butyl]-morpholine-2,5-dione | 10 g | C(C1=CC=CC=C1)OC(=O)NCCCCC1NC(COC1=O)=O | C16H20N2O5
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | glycolic acid Nε-benzyloxycarbonyl-L-lysine L-lactic acid | C(CO)(=O)O.C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O.C([C@@H](O)C)(=O)O | InChI=1S/C14H20N2O4.C3H6O3.C2H4O3/c15-12(13(17)18)8-4-5-9-16-14(19)20-10-11-6-2-1-3-7-11;1-2(4)3(5)6;3-1-2(4)5/h1-3,6-7,12H,4-5,8-10,15H2,(H,16,19)(H,17,18);2,4H,1H3,(H,5,6);3H,1H2,(H,4,5)/t12-;2-;/m00./s1
